US08912188B2
To a solution of methyl 2-(4-amino-3-nitrophenyl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (900 mg, 2.28 mmol) in methanol (40 mL) was added iron (1.28 g, 22.8 mmol) and NH4Cl (1.81 g, 34.2 mmol). After stirring for 6 h at 60° C., the solids were filtered out. The filtrate was concentrated under vacuum to give a residue which was dissolved in water (200 mL), extracted with dichloromethane (3×50 mL), dried over anhydrous sodium sulfate and concentrated under vacuum to afford methyl 2-(3,4-diaminophenyl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate as yellow solid (635 mg, crude).

reactant | methyl 2-(4-amino-3-nitrophenyl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 2.28 mmol, 900 mg | NC1=C(C=C(C=C1)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC)[N+](=O)[O-] | C20H21N5O4
reactant | NH4Cl | 34.2 mmol, 1.81 g | [NH4+].[Cl-]
solvent | methanol | 40 mL | CO | CH4O
solvent | water | 200 mL | O | H2O
catalyst | iron | 22.8 mmol, 1.28 g | [Fe] | Fe
product | methyl 2-(3,4-diaminophenyl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | NC=1C=C(C=CC1N)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C20H23N5O2
